US05536725
This compound is prepared in a manner analogous to that of Step A of Example 2, using 14.0 grams (0.049 mole) of 2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl bromide and 13.0 grams (0.050 mole) of triphenylphosphine in about 100 mL of toluene, yielding (2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)triphenylphosphonium bromide.

reactant | 2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl bromide | 0.049 mole, 14.0 grams | FC1(OC2=C(C1(F)F)C=CC=C2CBr)F | C9H5BrF4O
reactant | triphenylphosphine | 0.050 mole, 13.0 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | about 100 mL | C1(=CC=CC=C1)C | C7H8
product | (2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)triphenylphosphonium bromide | [Br-].FC1(OC2=C(C1(F)F)C=CC=C2C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)F | InChI=1S/C27H20F4OP.BrH/c28-26(29)24-18-10-11-20(25(24)32-27(26,30)31)19-33(21-12-4-1-5-13-21,22-14-6-2-7-15-22)23-16-8-3-9-17-23;/h1-18H,19H2;1H/q+1;/p-1
